US08314126B2
3-(1-ETHYLPIPERIDIN-4-YL)-2-HYDROXYBENZONITRILE
To a solution of 3-(1-ethylpiperidin-4-yl)-2-fluorobenzonitrile (10 mg, 0.031 mmol) in dimethylsulfoxide (1 ml) was added 2-butyn-1-ol (4.3 mg, 0.062 mmol) and potassium-tertbutoxide (7 mg, 0.063 mmol). The mixture was heated to 125° C. in a sealed tube under microwave radiation for 120 s. Aqueous hydrochloric acid (10%, 10 ml) was added and the aqueous phase was washed with diethyl ether (2×20 ml). The aqueous phase was basified by addition of sodium hydroxide (5 M, 5 ml) and extracted with ethyl acetate (3×20 ml). The combined organic phase was dried (MgSO4) and evaporated under reduced pressure to give the title compound. MS m/z (relative intensity, 70 eV) 230 (M+, 60), 229 (24), 216 (23), 215 (bp) 110 (30).

reactant | 3-(1-ethylpiperidin-4-yl)-2-fluorobenzonitrile | 0.031 mmol, 10 mg | C(C)N1CCC(CC1)C=1C(=C(C#N)C=CC1)F | C14H17FN2
reactant | 2-butyn-1-ol | 0.062 mmol, 4.3 mg | C(C#CC)O | C4H6O
reactant | potassium tertbutoxide | 0.063 mmol, 7 mg | [K].CC(C)([O-])C
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 3-(1-ETHYLPIPERIDIN-4-YL)-2-HYDROXYBENZONITRILE | C(C)N1CCC(CC1)C=1C(=C(C#N)C=CC1)O | C14H18N2O
